US04426388
To a stirred solution of 5-hydroxy-2-benzothiazole-sulfonamide (6.5 g., 0.028 mole), trimethylamine (4 ml.) and 4-dimethylaminopyridine (200 mg.) in dimethylformamide (30 ml) is added isobutyric anhydride (4.7 ml.). The reaction is stirred for 11/2 hours, poured into ice water and dilute hydrochloric acid, extracted into ether, washed with water, dried over magnesium sulfate and chromatographed on 200 grams of silica gel (ethylacetate - hexane, 1:1) to give 2-sulfamoyl-5-benzothiazolyl 2-methylpropionate.

reactant | 5-hydroxy-2-benzothiazole-sulfonamide | 0.028 mole, 6.5 g | OC=1C=CC2=C(N=C(S2)S(=O)(=O)N)C1 | C7H6N2O3S2
reactant | trimethylamine | 4 ml | CN(C)C | C3H9N
reactant | isobutyric anhydride | 4.7 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-sulfamoyl-5-benzothiazolyl 2-methylpropionate | CC(C(=O)OC=1C=CC2=C(N=C(S2)S(N)(=O)=O)C1)C | C11H12N2O4S2
